US07572801B2
In analogy to the procedure described in example 78.4, 2,5-dichloro-N-{2-[2-(4-chloro-phenyl)-ethoxy]-1-imino-ethyl}-nicotinamide was treated with KOtBu to obtain 6-chloro-2-[2-(4-chloro-phenyl)-ethoxymethyl]-3H-pyrido[2,3-d]pyrimidin-4-one as orange crystals. MS: m/e=350.2 [M+H+].

reactant | 2,5-dichloro-N-{2-[2-(4-chloro-phenyl)-ethoxy]-1-imino-ethyl}-nicotinamide | ClC1=C(C(=O)NC(COCCC2=CC=C(C=C2)Cl)=N)C=C(C=N1)Cl | C16H14Cl3N3O2
reactant | KOtBu | CC(C)(C)[O-].[K+]
product | 6-chloro-2-[2-(4-chloro-phenyl)-ethoxymethyl]-3H-pyrido[2,3-d]pyrimidin-4-one | ClC1=CC2=C(N=C(NC2=O)COCCC2=CC=C(C=C2)Cl)N=C1 | C16H13Cl2N3O2
